US09227978B2
3-(4,5-Dichloro-2-iodophenyl)phenol
A mixture of 1,2-dichloro-4,5-diiodobenzene (1.5 g, 3.76 mmol), 3-hydroxyphenylboronic acid (0.52 g, 3.76 mmol), Na2CO3 (1.99 g, 18.8 mmol) and Pd(PPh3)4 (0.35 g, 0.30 mmol), in 1,4-dioxane (10 mL) and water (2 mL) was stirred at reflux under argon for 16 h. The mixture was allowed to cool to room temperature and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate=20:1) to afford the desired product (300 mg, 22% yield). ESI-MS m/z: 362.9 [M−H]−.

reactant | 1,2-dichloro-4,5-diiodobenzene | 3.76 mmol, 1.5 g | ClC1=C(C=C(C(=C1)I)I)Cl | C6H2Cl2I2
reactant | 3-hydroxyphenylboronic acid | 3.76 mmol, 0.52 g | OC=1C=C(C=CC1)B(O)O | C6H7BO3
reactant | Na2CO3 | 18.8 mmol, 1.99 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.30 mmol, 0.35 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4,5-Dichloro-2-iodophenyl)phenol | 300 mg, 22% yield | ClC1=CC(=C(C=C1Cl)C=1C=C(C=CC1)O)I | C12H7Cl2IO
